* Z:\mnt\design.r\spice\examples\1880.asc
V1 +V 0 1.5
V2 -V 0 -1.5
R1 N003 N002 100K
R2 N002 N001 1Meg
V3 N001 0 SINE(0 13.5 1K)
XU1 0 N002 +V -V N003 LT1880
.tran 3m
.lib LTC.lib
.backanno
.end
